US06878712B1
(R)-[(2S,5R)-2-Methyl-5-methyl-4-(4-fluorophenylsulphonyl)-1-(3,3,3-trifluoro-2-hydroxy-2-methylpropionyl)piperazine]
A solution of 4-fluorobenzene sulphonyl chloride (234 mg, 1.2 mmol) in EtOAc (10 ml) was added to a stirred mixture of (R)-[(2S,5R)-2-methyl-5-methyl-1-(3,3,3-trifluoro-2-hydroxy-2-methylpropionyl)piperazine] (J. Med. Chem., 1999, 42, 2741-2746) (254 mg, 1.0 mmol) and triethylamine (0.17 ml, 1.2 mmol) in EtOAc (15 ml). The resultant mixture was stirred at ambient temperature for 2 hours, washed with 1 M hydrochloric acid, saturated sodium hydrogen carbonate solution and brine, dried and evaporated. The residue was recrystallized from EtOAc/hexane to give the title compound as a solid (230 mg, 0.56 mmol). Mp: 174-175° C.; NMR: 0.95 (d, 3H), 1.25 (d, 3H), 1.75 (s, 3H), 3.25 (dd, 1H), 3.35 (d, 1H), 3.5 (dd, 1H), 4.15 (m, 2H), 4.3 (s, 1H), 4.75 (s, 1H), 7.2 (d, 2H), 7.8 (d, 2H); m/z 411.

reactant | 4-fluorobenzene sulphonyl chloride | 1.2 mmol, 234 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | (R)-[(2S,5R)-2-methyl-5-methyl-1-(3,3,3-trifluoro-2-hydroxy-2-methylpropionyl)piperazine] | 1.0 mmol, 254 mg | C[C@@H]1N(C[C@H](NC1)C)C([C@@](C(F)(F)F)(C)O)=O | C10H17F3N2O2
reactant | triethylamine | 1.2 mmol, 0.17 ml | C(C)N(CC)CC | C6H15N
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | (R)-[(2S,5R)-2-Methyl-5-methyl-4-(4-fluorophenylsulphonyl)-1-(3,3,3-trifluoro-2-hydroxy-2-methylpropionyl)piperazine] | 0.56 mmol, 230 mg | C[C@@H]1N(C[C@H](N(C1)S(=O)(=O)C1=CC=C(C=C1)F)C)C([C@@](C(F)(F)F)(C)O)=O | C16H20F4N2O4S
